US04056536
A solution of 3gm. of 2-trifluoromethylthio-11H-pyrrolo[2,1-b][3]benzazepin-11-one in 25 ml. of acetic acid containing 3 ml. of 50% hydrogen peroxide is stirred at 25° C. for 6 hrs. The solvent is evaporated and the residue dissolved in 100 ml . of methylene chloride. The solution is washed with 2 × 25 ml. of 5% Na2CO3 solution, dried and evaporated. Chromatography of the residue on silica gel yields 2-trifluoromethylsulfinyl-11H-pyrrolo[2,1-b][3]benzazepin-11-one.

reactant | 2-trifluoromethylthio-11H-pyrrolo[2,1-b][3]benzazepin-11-one | FC(SC=1C=C2C(C3=C(C=CN2C1)C=CC=C3)=O)(F)F | C14H8F3NOS
reactant | hydrogen peroxide | OO | H2O2
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | 2-trifluoromethylsulfinyl-11H-pyrrolo[2,1-b][3]benzazepin-11-one | FC(S(=O)C=1C=C2C(C3=C(C=CN2C1)C=CC=C3)=O)(F)F | C14H8F3NO2S
